US07064142B2
Production of 4,4-bis(4-fluorophenyl)-2-pyrazinyl-2-imidazoline
To a solution of 1,1-bis(4-fluorophenyl)-1,2-ethanediamine(500 mg) in methanol(10 mL) was added pyrazineimidic acid methyl ester (385 mg), and the mixture was stirred at room temperature for 18 hrs. After concentrating the reaction mixture, the residue was dissolved in ethyl acetate (50 ml), washed with saturated sodium hydrogen carbonate aqueous solution and saturated sodium chloride aqueous solution in this order, and dried over anhydrous sodium sulfate. Sodium sulfate was removed by filtration, and the organic solvent was evaporated in vacuo. The obtained residue was purified by silica gel column chromatography (C-300; hexane:ethyl acetate=1:1) to give the objective compound (446 mg).

reactant | 1,1-bis(4-fluorophenyl)-1,2-ethanediamine | 500 mg | FC1=CC=C(C=C1)C(CN)(N)C1=CC=C(C=C1)F | C14H14F2N2
reactant | pyrazineimidic acid methyl ester | 385 mg | COC(=N)C1=NC=CN=C1 | C6H7N3O
solvent | methanol | 10 mL | CO | CH4O
product | 4,4-bis(4-fluorophenyl)-2-pyrazinyl-2-imidazoline | 446 mg | FC1=CC=C(C=C1)C1(N=C(NC1)C1=NC=CN=C1)C1=CC=C(C=C1)F | C19H14F2N4
